US05204468
(i)1.78 g of (R)-(-)-N-acetyl-7,8-dimethoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline was dissolved in 9 ml of dichloromethane; after adding 24 ml of 1M boron tribromide-dichloromethane solution at -30 ° C., the mixture was reacted at room temperature for 90 minutes. Then 4.4 ml of methanol was added at -30° C. The reaction solution was concentrated and subjected twice to azeotropic distillation with methanol. To the residue was added 17.8 ml of 0.1N hydrochloric acid. The crystals which separated out were collected by filtration, affording 1.46 g of (R)-(-)-N-acetyl-7,8-dihydroxy-4-(3,4-dihyroxyphenyl)-1,2,3,4-tetrahydroisoquinoline.1/4 hydrate, m.p. above 230° C. (decomposition): [α]D20 =-85° (C=1, CH3OH)

reactant | (R)-(-)-N-acetyl-7,8-dimethoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 1.78 g | C(C)(=O)N1CC2=C(C(=CC=C2[C@H](C1)C1=CC(=C(C=C1)OC)OC)OC)OC | C21H25NO5
reactant | boron tribromide dichloromethane | 1M, 24 ml | B(Br)(Br)Br.ClCCl
reactant | methanol | 4.4 ml | CO | CH4O
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | (R)-(-)-N-acetyl-7,8-dihydroxy-4-(3,4-dihyroxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 1.46 g | C(C)(=O)N1CC2=C(C(=CC=C2[C@H](C1)C1=CC(=C(C=C1)O)O)O)O | C17H17NO5
